US09226916B2
a) 5′-Fluoro-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-carboxylic acid ethyl ester
A mixture of 3.4 g (20 mmol) 2-bromo-5-fluoropyridine, 4.61 g (29 mmol) ethyl isonipecotate and 3.79 g (29 mmol) DIPEA in 5 mL NMP was heated for 15 min to 170° C. and 60 min to 200° C. After cooling to room temperature water was added and the mixture was extracted with ethyl acetate and heptane. The combined organic layers were washed with brine, dried with Na2SO4, filtered and evaporated to dryness. The residue was purified by column chromatography on silica eluting with a gradient formed from heptane and ethyl acetate. The product containing fractions were evaporated to yield 1.5 g (30%) of the title compound as light yellow oil. MS m/e: 253.3 [M]+.

reactant | 2-bromo-5-fluoropyridine | 20 mmol, 3.4 g | BrC1=NC=C(C=C1)F | C5H3BrFN
reactant | ethyl isonipecotate | 29 mmol, 4.61 g | N1CCC(C(=O)OCC)CC1 | C8H15NO2
reactant | DIPEA | 29 mmol, 3.79 g | CCN(C(C)C)C(C)C | C8H19N
reactant | water | O | H2O
solvent | NMP | 5 mL | CN1CCCC1=O | C5H9NO
product | 5′-Fluoro-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-carboxylic acid ethyl ester | 1.5 g, 30% | C(C)OC(=O)C1CCN(CC1)C1=NC=C(C=C1)F | C13H17FN2O2
